*440CNQ030 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 30V 400A 3us pkg:TO-244 1,2,3
.SUBCKT 440CNQ030 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=625N RS=95.5U N=1.7 BV=30 IBV=1.12
+ CJO=18.1N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 440CNQ030


